US09382356B2
(i) Synthesis of 6,6-di(n-butyl)fulvene
Under a nitrogen atmosphere, a 200-mL three-necked flask was charged with 15 mL of methanol and 11.8 mL (146 mmol) of pyrrolidine. The mixture was cooled in an ice bath. Subsequently, 20.21 g (144 mmol) of 5-nonanone and 11.0 mL (146 mmol) of cyclopentadiene were added, and the mixture was stirred at room temperature for 22 hours. 100 mL of diethyl ether and 100 mL of water were added to extract the soluble fraction. This organic layer was washed two times with water and once with saturated brine, and dried over magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography to obtain a target product as a yellow oil (yield 22.53 g (82%)). The target product was identified by 1H-NMR.

reactant | methanol | 15 mL | CO | CH4O
reactant | pyrrolidine | 146 mmol, 11.8 mL | N1CCCC1 | C4H9N
reactant | 5-nonanone | 144 mmol, 20.21 g | CCCCC(CCCC)=O | C9H18O
reactant | cyclopentadiene | 146 mmol, 11.0 mL | C1=CC=CC1 | C5H6
solvent | water | 100 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 6,6-di(n-butyl)fulvene | yield 22.53 g, 82% | C(CCC)C(=C1C=CC=C1)CCCC | C14H22
